US04152327
8-[5-(4-Fluorophenyl)-2-pentyl]-10-hydroxy-N,N,5,5-tetramethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide (VIII)
The above-titled compound was prepared by reacting 8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine with 2-chloro-N,N-dimethylacetamide according to the method of Example 3.

reactant | 8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)O)C=1CNCCC1C(O2)(C)C | C25H30FNO2
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 8-[5-(4-Fluorophenyl)-2-pentyl]-10-hydroxy-N,N,5,5-tetramethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide | FC1=CC=C(C=C1)CCCC(C)C1=CC2=C(C(=C1)O)C=1CN(CCC1C(O2)(C)C)CC(=O)N(C)C | C29H37FN2O3
